11
C0100 1 0 1
G0203 2 3 4 0 -1E-6 -7E-6 0 5.6E-5 0 -1.12E-4 0 6.4E-5
G0500 5 0 1 0 -1E-5
G0206 2 6 7 0 -1E-6 -7E-6 0 5.6E-5 0 -1.12E-4 0 6.4E-5
E0800 8 0 2 3 1E-1
E0900 9 0 2 6 1E-1
F0002 0 2 6 10 0.5
F1002 10 2 3 0 0.99
H1100 11 0 5 2 1
I0001 0 1 PULSE 0 100 1 0 0 0 1 1E+1
V0408 4 8 DC 1
V0709 7 9 DC 1
VCC 10 0 PULSE 0 3E+1 0 0.5 0.5 0 1 1.1E+1
.TRAN 1.1E+1 10E-3 BE 1
